US09359375B2
A solution of 2-bromo-4,5-difluorobenzonitrile (150 mg, 0.688 mmol), (R)-2-amino-3-(pyridin-2-yl)propanamide hydrochloride (170 mg, 0.714 mmol) and DIEA (0.500 mL, 2.87 mmol) in DMSO (4 mL) was stirred at 120 C for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-(pyridin-2-yl)propanamide (274 mg)

reactant | 2-bromo-4,5-difluorobenzonitrile | 0.688 mmol, 150 mg | BrC1=C(C#N)C=C(C(=C1)F)F | C7H2BrF2N
reactant | (R)-2-amino-3-(pyridin-2-yl)propanamide hydrochloride | 0.714 mmol, 170 mg | Cl.N[C@@H](C(=O)N)CC1=NC=CC=C1
reactant | DIEA | 2.87 mmol, 0.500 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-(pyridin-2-yl)propanamide | 274 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)CC1=NC=CC=C1)F)C#N | C15H12BrFN4O
